US08802712B2
4-[(6-Benzyloxy-7-methoxy-3-nitroquinolin-4-yl)cyanomethyl]benzonitrile (5.0 g, 11.1 mmol) is suspended in water (250 ml) and heated to the boil. Potassium permanganate (5.26 g, 33.3 mmol) is subsequently added in portions at such a rate that the subsequent addition is only made when the previous one has decoloured (time needed: about 2.5 h). The mixture is then heated under reflux for a further 2 h. After cooling to about 60° C., the mixture is filtered with suction. The aqueous filtrate is discarded, the filter cake is suspended four times in N,N-dimethylformamide (250 ml each time) and filtered off with suction (TLC (HPTLC) product monitoring). The combined DMF solutions are acidified to about pH 4 using 1.0 M hydrochloric acid (colour change) and evaporated to dryness in vacuo, giving an oil. The residue is taken up in tetrahydrofuran (5.0 ml), and ethyl acetate (100 ml) is subsequently added, the mixture is stirred for 30 min, and subsequently cooled in an ice bath. The precipitate obtained is filtered off with suction and dried in a high vacuum, giving 4-(6-benzyloxy-7-methoxy-3-nitroquinoline-4-carbonyl)benzonitrile (3.61 g, 8.22 mmol) as a solid having a melting point of 262° C. MS: 440.1 (M+H+), TLC (HPTLC) (HPTLC): Rf=0.44 (cyclohexane/ethyl acetate 1:1 parts by volume).

reactant | 4-[(6-Benzyloxy-7-methoxy-3-nitroquinolin-4-yl)cyanomethyl]benzonitrile | 11.1 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])C(C1=CC=C(C#N)C=C1)C#N | C26H18N4O4
reactant | Potassium permanganate | 33.3 mmol, 5.26 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 4-(6-benzyloxy-7-methoxy-3-nitroquinoline-4-carbonyl)benzonitrile | 8.22 mmol, 3.61 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])C(=O)C1=CC=C(C#N)C=C1 | C25H17N3O5
